US09290468B2
Step 2: 1-allyl-N-(5-((4-bromo-2-chlorophenyl)amino)-4-fluorobenzo[d]thiazol-6-yl)cyclopropane-1-sulfonamide
To a solution of 7-((1-allylcyclopropyl)sulfonyl)-5-(4-bromo-2-chlorophenyl)-4-fluoro-5H-imidazo[4′,5′:4,5]benzo[1,2-d]thiazol-6(7H)-one (60 mg, 0.111 mmol) in THF (5 mL) was added potassium trimethylsilanolate (15 mg, 0.111 mmol). The mixture was stirred at room temperature for 1 h and treated with saturated NH4Cl (aq.). The aqueous layer was extracted with ethyl acetate (10 mL×2). The combined organic phase was washed with brine (20 mL), dried over Na2SO4, filtered and concentrated to give a residue, which was purified by flash chromatography on silica gel (petroleum ether/ethyl acetate, 5:1-3:1, v/v) to give the product as a white solid (50 mg, 87.5% yield). 1H NMR (400 MHz, CDCl3) δ 8.65 (s, 1H), 7.98 (s, 1H), 7.90 (d, 1H), 7.76 (d, 1H), 7.45 (m, 1H), 6.80 (s, 1H), 6.63 (s, 1H), 5.75-5.60 (m, 1H), 5.03 (m, 2H), 2.92-2.81 (m, 1H), 2.12-2.01 (m, 1H), 1.93-1.85 (m, 2H), 1.20-1.11 (m, 2H).

reactant | 7-((1-allylcyclopropyl)sulfonyl)-5-(4-bromo-2-chlorophenyl)-4-fluoro-5H-imidazo[4′,5′:4,5]benzo[1,2-d]thiazol-6(7H)-one | 0.111 mmol, 60 mg | C(C=C)C1(CC1)S(=O)(=O)N1C(N(C=2C1=CC1=C(N=CS1)C2F)C2=C(C=C(C=C2)Br)Cl)=O | C20H14BrClFN3O3S2
reactant | potassium trimethylsilanolate | 0.111 mmol, 15 mg | C[Si]([O-])(C)C.[K+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-allyl-N-(5-((4-bromo-2-chlorophenyl)amino)-4-fluorobenzo[d]thiazol-6-yl)cyclopropane-1-sulfonamide | 50 mg, 87.5% yield | C(C=C)C1(CC1)S(=O)(=O)NC1=CC2=C(N=CS2)C(=C1NC1=C(C=C(C=C1)Br)Cl)F | C19H16BrClFN3O2S2
